US04202899
By substituting an equivalent amount of 4-hydrazino-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester for the 1-ethyl-4-hydrazino-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester in the procedure of Example 1 a and continuing as in parts b, c and d, 5-chloro-2-methyl-8H-pyrazolo[1,5a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine and N-butyl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidin-5-amine respectively, are obtained.

reactant | 4-hydrazino-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | N(N)C1=C2C(=NC=C1C(=O)OCC)NN=C2 | C9H11N5O2
reactant | 1-ethyl-4-hydrazino-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | C(C)N1N=CC=2C1=NC=C(C2NN)C(=O)OCC | C11H15N5O2
product | N-butyl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidin-5-amine | C(CCC)NC1=NC=2N(C3=C1C=NC1=C3C=NN1)N=C(C2)C | C15H17N7
